US06337423B1
Under a nitrogen atmosphere in a Parr bottle, 2,6-dimethyl-4-(octyloxy)-nitrobenzene (7.89 mmoles) was dissolved in methanol (100 mL). To this was added 0.5 grams of 10% Pd/C, and shaken under a hydrogen atmosphere (30 PSI) for 18 hours. The catalyst was filtered off over Millipore filter paper, and rinsed with methanol. The filtrate was concentrated to yield 2,6-dimethyl-4-(octyloxy)-aniline as a thick oil (1.8 grams; 91%). The product was characterized by NMR (DMSO).

reactant | 2,6-dimethyl-4-(octyloxy)-nitrobenzene | 7.89 mmoles | CC1=C(C(=CC(=C1)OCCCCCCCC)C)[N+](=O)[O-] | C16H25NO3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.5 grams | [Pd] | Pd
product | 2,6-dimethyl-4-(octyloxy)-aniline | CC1=C(N)C(=CC(=C1)OCCCCCCCC)C | C16H27NO
